Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I wanted to go to sleep and not wake up" s/p suicide attempt
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ y/o single mother w ___ untreated,
worsening depression ___, intermittent SI ___ year, childhood
emotional/verbal trauma, hx physical trauma by ___, few
social supports, with significant social stressors who ingested
vodka, Tylenol, and ASA last night in a suicide attempt. 

Pt reported she was supposed to move a new apartment in ___ yesterday but experienced numerous problems that led to
this not being possible. She explained she woke at 5am 
yesterday,
packed, recruited friends to help her move, borrowed friend's
car. However, the key to apartment did not work which led to her
being late to the truck rental agency and she consequently was
unable to complete the move. 

Feeling overwhelmed, she called a friend, whom she told that she
"could not take it anymore" before hanging up. She endorsed
strong feeling to "go to sleep and not wake up", saw pills on 
the
counter and took the entire bottle with vodka. Her friend tried
to call her back but Ms. ___ did not pick up, so her friend
called EMS, who found her on the floor with the vodka and pill
bottles nearby. Per documentation, was transferred from ___ on a bicarbonate drip. She received activated charcoal,
mag citrate and a bicarbonate drip in D5W.  Her Tylenol level at
12am was 110 and her aspirin level was 36.

Pt reported experiencing worsening depression over the past ___
years w neurovegetative syx of low energy, difficutly awakening
and has been feeling overwhelmed, ___, feeling very
lonely.  She endorsed passive suicidal ideation about 4 times 
per
week for the past year but that this is usually prevented from
progressing by presence/thoughts of her son. She reported she 
did
not happen to think of him last night prior to the OD as his
paternal grandmother was caring for him (while patient had
planned to move.) She endorsed anxiety with rumination. She
reported difficulty falling asleep and only sleeps for about ___
hours. She denied dec need for sleep and all
mania/psychosis/OCD/eating d/o/PTSD ROS, HI. She works ___
several days a week and sometimes does not have any days off;
this leads to her not being able to see her son as often as 
she'd
like, ultimately leading to significant feelings of guilt. She
did endorse still enjoying spending time with her son and with
her friends. She reported having to push herself to get through
the day but is able to suppress depressive/anxious thoughts and
focus upon and enjoy work. She does have hope for the future and
would like to return to school.

In additional to financial stressors, stress related to not
having much time with her son, housing stressors (currently 
lives
in one room apartment with her son - move is to an apartment so
he can have his own bedroom), she endorsed stress related to her
son's father.  She has not been in a relationship with him and
during this past year had a restraining order against him x6mths
related to an episode in which he confronted her when she was at
a club talking with a male, punched her and pulled a knife on 
the
male. She reported the restraining order expired 3mths ago.  He
lives with his mother/son's paternal grandmother, though patient
does have a good relationship with son's paternal grandmother. 

Pt has hx of childhood emotional/verbal trauma as well.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: none
Current treaters and treatment: none
Medication and ECT trials: none
___: none, no previous suicide attempts
Harm to others: none
Access to weapons: none

PAST MEDICAL HISTORY:
PCP - prior Dr. ___, but site is still ___ in ___.
"Fainting" at work - ultimately explained as exhaustion; several
medical workups w ~5 medical hospitalizations negative (per
patient) 

 
Social History:
Patient was raised by her grandmother from ___/
o in ___. Mother gave patient to grandmother to raise and 
gave
patient's sister to ___ to raise; patient did not
know she had a sister until she was ___ when sister came to 
live
with her and their grandmother. Pt reports 10 paternal siblings
but does not know them. Mother took patient and patient's sister
to the US when she was ___. Patient does not have a good
relationship with her mother at this time and believes her 
mother
is living in ___. Father has not been involved in patient's
life. Patient does have good relationship w sister ___ who
lives in ___, talks daily but sister is not able to
consistently support pt at all times. Pt reports she speaks 
daily
with her grandmother via a phone card. Has an aunt in ___
but only speaks with her occasionally.

As mentioned in HPI, hx verbal abuse by mother, emotional trauma
via inconsistent childhood environments, physical abuse by son's
father. 

Education through ___ grade as well as CNA training. Works as
___ in ___ often ___ with no days off at times. Lives
in one room apartment in ___ w son.  Few social supports -
sister, ___ aunt, grandmother over phone only, friends; pat gm 
is
support in relation to pt's son. Plans to move to ___ to
larger apartment so son can have own room.

SUBSTANCE ABUSE HISTORY:
EtOH: only drinks socially, about 1 drink every 2 weeks when she
goes clubbing
No other substance use

FORENSIC HISTORY: ___
Family History:
FAMILY PSYCHIATRIC HISTORY: 
Pt denied knowledge of family history, but of note, mother gave
patient to grandmother to raise and gave patient's sister to
___ to raise and took patient and patient's sister
to the ___ when she was ___. Patient does not have a good
relationship with her mother at this time and believes her 
mother
is living in ___. Father has not been involved in patient's
life. 
 
Physical Exam:
Exam on psychiatric admission (___):
VS:  BP:109/59 HR:66 temp:99.2 resp:18 O2 sat:100 height:5'  
weight:114.2 lbs
___, tattoos
___, oropharynx without erythema/exudate
___, no rales, rhonchi, wheezes appreciated
___ rate, regular rhythm, normal S1, S2, no r/m/g
appreciated
Abdomen: BSx4, soft, nd, nttp
___ BLE edema, radial pulses 2+ bilaterally
Neuro-
CN: 
     pupils symmetry and responsiveness to light and
accommodation: intact
     visual fields: full to confrontation
     EOM: intact
     facial sensation to light touch in all 3 divisions: intact
     facial symmetry on eye closure and smile: intact
     hearing bilaterally to rubbing fingers: intact
     phonation: intact
     head turning and shoulder shrug: intact
     tongue: midline without fasciculation, uvula midline
 
Motor:
Normal tone, bulk, strength ___ bilaterally shoulder abduction,
elbow flexion/extension, hip flexion, knee flexion/extension,
ankle dorsi/plantarflexion

*Deep tendon Reflexes:
Normoreflexic and symmetric biceps, triceps, brachioradialis,
patellae and ankles, negative Babinski bilaterally.

Sensation: diffusely intact to light touch
Coordination: 
     ___ without dysmetria
Gait/Romberg: normal gait, heel, toe, tandem walk, negative
Romberg.

Neuropsychiatric Examination:
  *Appearance: appears reported age, appropriate hygiene, ___,
dressed in casual attire
  Behavior: cooperative, appropriate eye contact
  *Mood and Affect: 'depressed'/congruent, dysphoric but 
reactive
and full range
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
linear, coherent, no LOA
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): denied current SI/HI, AVH, did not appear
RTIS
  *Judgment and Insight: limited/poor
  Cognition:
    *Attention, *orientation, and executive function: MOYB 
___,
oriented to person, place, time/date
    *Memory: Registration ___, Recall ___ at 5 min
    *Fund of knowledge: 3 current pres candidates ___, 
___
    ___: 2.25=9 quarters
    Abstraction: watch/ruler=measure, 'spilled milk'
    *Speech: normal tone, rate, prosody
    *Language: fluent

Exam on discharge (___):
VS:  BP:104/59 HR:102 temp:99.1 resp:16 O2 sat:100% RA

Mental Status Exam: 
 Appearance: Young ___ F, in no apparent distress, appears
stated age, well groomed, appropriately dressed
 Behavior: More open and friendly than prior, smiling at times. 
Better eye contact. No psychomotor agitation or retardation
 Speech: Soft volume, normal speed and prosody, more spontaneous
than prior
 Mood and Affect: "good" / affect still slightly dysphoric but
improving, brighter
 Thought Process: linear, coherent, ___. No LOA. More
forthcoming than prior.
 Thought Content: Denies current SI/HI/AH/VH, no evidence of
delusions or paranoia
 Judgment and Insight: fair/improving
 
Pertinent Results:
___ 07:22AM   ___ TOTAL 
___ BASE ___ TOP
___ 06:20AM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 06:20AM   ALT(SGPT)-15 AST(SGOT)-18 ALK ___ TOT 
___
___ 06:20AM   ___
___ 06:20AM   ___
___ 06:20AM   ___ 
___
___ 06:20AM   PLT ___
___ 06:20AM   ___ ___
___ 02:20PM   ___ TOTAL 
___ BASE ___
___ 02:17PM   ALT(SGPT)-20 AST(SGOT)-39 ALK ___ TOT 
___
___ 02:17PM   ___
___ 11:27AM   ___ TOTAL 
___ BASE ___
___ 10:00AM   ___
___ 08:03AM   ___ TOTAL ___ 
BASE ___
___ 08:03AM   ___
___ 06:43AM   ___
___ 06:43AM   ___
___ 03:58AM   ___ TOTAL 
___ BASE XS--2 ___ TOP
___ 03:58AM   ___
___ 03:56AM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 03:56AM   ___ this
___ 03:56AM   ALT(SGPT)-17 AST(SGOT)-21 ALK ___ TOT 
BILI-<0.2
___ 03:56AM   ___ 
___
___ 03:56AM   ___ 
___
___ 03:56AM   ___ 
___
___ 03:56AM   ___ 
___ IM ___ 
___
___ 03:56AM   PLT ___
___ 03:56AM   ___ ___
___ 03:40AM URINE  ___
___ 03:40AM URINE  ___
___ 03:40AM URINE  ___ 
___
___ 03:40AM URINE  ___ SP ___
___ 03:40AM URINE  ___ 
___ 
___
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was placed on 15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted. Patient remained in good 
behavioral control throughout her hospital stay. 

2. PSYCHIATRIC:
#) Major depressive disorder:
Patient initially presented as acutely dysphoric, guarded with 
blunted affect, and frustrated to be hospitalized on inpatient 
psychiatric unit. She had limited insight regarding her symptoms 
of depression and refused treatment options because she did not 
believe she had a mental illness. Patient subsequently agreed to 
begin participating in group therapy and to take ___ 
(Wellbutrin SR titrated to final dose of 150 mg daily). She 
began to improve clinically and opened up to the team about her 
life stressors and difficult relationship with family, 
acknowledging that she had trouble opening up to others. By time 
of discharge, patient appeared brighter, more open and friendly, 
___, and with improved insight and judgment. She 
denied SI throughout admission. She continues to have difficulty 
sharing her feelings of stress, anxiety, and depression with her 
family, but showed a willingness to do so during the family 
meeting held on the unit, and expressed a desire to accept 
support and help from family in the future.

3. SUBSTANCE USE DISORDERS:
#) No acute issues.

4. MEDICAL
#) S/p suicide attempt on acetaminophen, ASA, alcohol: Patient 
ingested approximately 30 g acetaminophen and 30 g ASA with 
unknown amount of vodka, and received activated charcoal, 
magnesium citrate, and sodium bicarbonate drip at an outside 
hospital. When transferred to ___, she was admitted to the 
MICU, labs with ASA and acetaminophen levels were monitored, and 
she was quickly weaned off of bicarb gtt and transferred to the 
floor. Labs and VS were reassuring, and patient was medically 
cleared to be transferred to psychiatry on ___.

#) Constipation: Patient c/o some constipation during 
hospitalization, and was maintained on bowel regimen of Colace 
and Senna PRN. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. Patient 
attended several groups, including projects and coping skills, 
however was not noted to participate much. Patient was visible 
but quiet in milieu, selectively social with peers.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient's mother and sister visited once during her 
hospitalization and attended family meeting before discharge. 
During family meeting, the team discussed the events leading up 
to patient's presentation. We explored the family's difficult 
relationship with patient before her hospitalization, and 
mother, sister, and patient were all able to express their 
frustrations regarding communication with one another prior to 
patient's suicide attempt. Mother and sister reported being 
aware that patient was struggling, however did not realize the 
extent of her stress and depression. It was discussed that 
patient had a very serious suicide attempt and ongoing support 
from family, along with following up with aftercare therapy and 
medication adherence, are crucial to her recovery. Both patient 
and family were able to discuss patient's private, independent 
nature, and the importance of both sides reaching out to one 
another was highlighted. They brainstormed ways in which they 
could improve their communication after discharge, and patient 
reported feeling better now that she realized her family cared 
and is there for her. Family and patient were in agreement with 
the aftercare plan, including medication adherence. It was also 
suggested by the team and family that patient take some time off 
of work for her continued recovery.

We discussed warning signs that the patient is feeling 
overwhelmed include not answering her phone, angry outbursts, 
crying, and closing up. Sister noted she will live next door to 
the patient, and will be checking on her frequently. Patient and 
family expressed gratitude for the meeting. 

#) INTERVENTIONS
- Medications: Wellbutrin SR 150 mg daily
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: PCP ___ at ___ 
___; psychiatrist and therapist either 
through PCP referral or through ___ Access Center 
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
Individual/group therapy, coping skills
- Guardianships: N/A

INFORMED CONSENT: Wellbutrin (bupropion)
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of starting this medication, 
and risks and benefits of possible alternatives, including not 
taking the medication, with this patient. We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any  questions about medications 
with the treatment team, and I answered the patient's questions. 
 The patient appeared able to understand and consented to begin 
the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon the 
severity and impulsiveness of her first suicide attempt and 
limited insight/judgment. Her static factors noted at that time 
include history of abuse/trauma, young age, and unmarried 
status.

The modifiable risk factors were also addressed at that time:
- Suicidal ideation with/without intent/plan (resolved with 
individual/group therapy and initiation of antidepressant)
- Hopelessness (resolved with individual/group therapy, 
antidepressant, and talking with patient about her son)
- Limited social supports (mitigated with family meeting, 
encouraging patient to reach out to family and friends for help)
- Limited coping skills (improved with individual/group therapy 
and encouraging patient to build support systems)
- No established outpatient treatment (resolved with 
___ PCP and establishing outpatient psychiatric 
provider ___
- Recent financial/housing loss (resolved with encouraging 
patient to ask friends/family for help moving into new home)

Finally, the patient is being discharged with many protective 
risk factors, including ___ viewpoint, sense of 
responsibility to family (especially her son), son in the home, 
improved coping skills, lack of suicidal ideation, and no 
history of substance use disorder. Thus, I feel the patient does 
not meet section 12a criteria for risk of harm to self/others. 

Based on the totality of our assessment at this time, the 
patient is not at an acutely elevated risk of ___ nor 
danger to others. 

Our prognosis of this patient is fair given ongoing limited 
insight but agreement to continued treatment and aftercare at 
this time.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. BuPROPion (Sustained Release) 150 mg PO QAM 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___